US08487108B2
To a solution of (S)-tert-butyl 4-((R)-5-tert-butoxy-2-(hydroxymethyl)-5-oxopentyl)-2,2-dimethyloxazolidine-3-carboxylate (244 mg, 0.63 mmol) in anhydrous DCM (6 mL) was added pyridine (2 mL) and catalytic amount of DMAP, the solution was chilled to 0° C. TsCl (360 mg, 1.88 mmol) was added and stirred at rt overnight. The reaction mixture was diluted with EtOAc (40 mL) and washed with 1 N HCl (two times, 50 ml+20 ml), followed by H2O, aq. NaHCO3, brine, dried over Na2SO4, and filtered. After evaporation, the residue was purified on silica gel column, eluted with 0-20% EtOAc in hexane to afford (S)-tert-butyl 4-((R)-5-tert-butoxy-5-oxo-2-(tosyloxymethyl)pentyl)-2,2-dimethyloxazolidine-3-carboxylate (317 mg, yield 93%). MS ESI +ve m/z 564 (M+Na).

reactant | (S)-tert-butyl 4-((R)-5-tert-butoxy-2-(hydroxymethyl)-5-oxopentyl)-2,2-dimethyloxazolidine-3-carboxylate | 0.63 mmol, 244 mg | C(C)(C)(C)OC(CC[C@H](C[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C)CO)=O | C20H37NO6
reactant | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
reactant | TsCl | 1.88 mmol, 360 mg | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
product | (S)-tert-butyl 4-((R)-5-tert-butoxy-5-oxo-2-(tosyloxymethyl)pentyl)-2,2-dimethyloxazolidine-3-carboxylate | 317 mg, yield 93% | C(C)(C)(C)OC(CC[C@H](C[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C)COS(=O)(=O)C1=CC=C(C)C=C1)=O | C27H43NO8S
